US08067445B2
Step 2: (5-Chloro-2′-formyl-5′-methoxy-biphenyl-3-yl)-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: (3-bromo-5-chloro-phenyl)-acetic acid methyl ester and 2-formyl-5-methoxyphenylboronic acid.

reactant | (3-bromo-5-chloro-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC(=C1)Cl)Br)=O | C9H8BrClO2
reactant | 2-formyl-5-methoxyphenylboronic acid | C(=O)C1=C(C=C(C=C1)OC)B(O)O | C8H9BO4
product | (5-Chloro-2′-formyl-5′-methoxy-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C=C(C1)Cl)C1=C(C=CC(=C1)OC)C=O)=O | C17H15ClO4
